US06028195
1-[(2-Methoxyquinolin-3-yl)aminothiocarbonyl]-4-(3,5-dichlorophenyl)piperazine
Phenyl N-(2-methoxyquinolin-3-yl)thiocarbamate and 1-(3,5-dichlorophenyl)piperazine were reacted by the same way with the example 109 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinolin-3-yl)thiocarbamate | COC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=S | C17H14N2O2S
reactant | 1-(3,5-dichlorophenyl)piperazine | ClC=1C=C(C=C(C1)Cl)N1CCNCC1 | C10H12Cl2N2
product | 1-[(2-Methoxyquinolin-3-yl)aminothiocarbonyl]-4-(3,5-dichlorophenyl)piperazine | yield: 62% | COC1=NC2=CC=CC=C2C=C1NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)Cl)Cl | C21H20Cl2N4OS
